US07786044B2
24. Preparation of 4-Amino-6-(4-chlorophenyl)-5-fluoro-3-methylpyridine-2-carboxylic acid methyl ester (Compound 25)
4-Amino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester (0.400 g, 1.269 mmol), tetramethylstannane (3.41 g, 19.04 mmol), and bis(triphenylphosphine)palladium(II) dichloride (0.089 g, 0.127 mmol) were combined and heated to 130° C. for 25 min in a CEM microwave reactor. The cooled reaction mixture was concentrated onto silica gel and purified by flash chromatography on silica gel (ethyl acetate/hexane gradient) to yield the title compound (0.143 g, 38.2% yield): 1H NMR (CDCl3) δ 7.88 (m, 2H), 7.41 (m, 2H), 4.41 (br s, 2H), 3.96 (s, 3H), 2.36 (s, 3H).

reactant | 4-Amino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester | 1.269 mmol, 0.400 g | COC(=O)C1=NC(=C(C(=C1Cl)N)F)C1=CC=C(C=C1)Cl | C13H9Cl2FN2O2
reactant | tetramethylstannane | 19.04 mmol, 3.41 g | C[Sn](C)(C)C
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.127 mmol, 0.089 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Amino-6-(4-chlorophenyl)-5-fluoro-3-methylpyridine-2-carboxylic acid methyl ester | 0.143 g, 38.2% yield | COC(=O)C1=NC(=C(C(=C1C)N)F)C1=CC=C(C=C1)Cl | C14H12ClFN2O2
